US09227975B2
Preparation of 6-(2-(3-fluorophenyl)piperidin-1-yl)-3-nitroimidazo[1,2-b]pyridazine
To a pressure reaction tube were charged 6-chloro-3-nitroimidazo[1,2-b]pyridazine (450 mg, 2.27 mmol), 2-(3-fluorophenyl)piperidine (609 mg, 3.40 mmol, purchased from ChemBridge), and N-ethyl-N-isopropylpropan-2-amine (0.51 mL, 2.95 mmol), followed by addition of 1.0 mL n-butanol. The reaction mixture was then sealed and stirred at 180° C. for 24 hours. After completion, the reaction was cooled to ambient temperature, and diluted with water and EtOAc. The organic layer was separated, and the aqueous layer was extracted with EtOAc twice. The combined organic layers was dried over Na2SO4 and concentrated. The crude product was purified by silica column chromatography, eluting with 20 to 50% EtOAc in hexanes to yield the desired product for the next step.

reactant | 6-chloro-3-nitroimidazo[1,2-b]pyridazine | 2.27 mmol, 450 mg | ClC=1C=CC=2N(N1)C(=CN2)[N+](=O)[O-] | C6H3ClN4O2
reactant | 2-(3-fluorophenyl)piperidine | 3.40 mmol, 609 mg | FC=1C=C(C=CC1)C1NCCCC1 | C11H14FN
reactant | N-ethyl-N-isopropylpropan-2-amine | 2.95 mmol, 0.51 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | n-butanol | 1.0 mL | C(CCC)O | C4H10O
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-(2-(3-fluorophenyl)piperidin-1-yl)-3-nitroimidazo[1,2-b]pyridazine | FC=1C=C(C=CC1)C1N(CCCC1)C=1C=CC=2N(N1)C(=CN2)[N+](=O)[O-] | C17H16FN5O2
